US08242133B2
To a mixture of 0.45 g of 2-(3-chloropyridin-4-yl)-5-(trifluoromethyl)benzoxazole and 5 ml of chloroform, 0.53 g of 65% m-chloroperbenzoic acid was added while ice-cooling. The reaction mixture was stirred at room temperature for 5.5 hours, and was then diluted with chloroform, and washed with 5% aqueous solution of sodium hydroxide and a saturated sodium chloride solution, sequentially. Organic layers were dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to give 0.25 g of 3-chloro-4-[5-(trifluoromethyl)benzoxazole-2-yl]pyridine N-oxide (hereinafter, referred to as “active compound 19”).

reactant | 2-(3-chloropyridin-4-yl)-5-(trifluoromethyl)benzoxazole | 0.45 g | ClC=1C=NC=CC1C=1OC2=C(N1)C=C(C=C2)C(F)(F)F | C13H6ClF3N2O
reactant | m-chloroperbenzoic acid | 0.53 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-chloro-4-[5-(trifluoromethyl)benzoxazole-2-yl]pyridine N-oxide | 0.25 g | ClC=1C=[N+](C=CC1C=1OC2=C(N1)C=C(C=C2)C(F)(F)F)[O-] | C13H6ClF3N2O2
